US04593102
4-[(3,4-Dichlorophenyl)thio]piperidine Monohydrobromide
A solution of 20.84 g (0.0502 mole) of 4-[(3,4-dichlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine, 36.58 g (0.338 mole) of phenol and 200 ml of 48% hydrobromic acid was heated at reflux for 25 hr. The reaction mixture was cooled to room temperature and diluted with water. The aqueous phase was extracted with benzene. The resulting aqueous acidic phase was made alkaline with 10% aqueous sodium hydroxide and extracted with chloroform. The chloroform layer was dried over sodium sulfate, filtered and evaporated to give a residue, the free base of the title compound. The free base was converted to the hydrobromide salt. The salt was recrystallized from methylene chloride-methanol diethyl ether to give 3.6 g (4.4%) of white solid, m.p. 125°-128° C.

reactant | 4-[(3,4-dichlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine | 0.0502 mole, 20.84 g | ClC=1C=C(C=CC1Cl)SC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H19Cl2NO2S2
reactant | phenol | 0.338 mole, 36.58 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | water | O | H2O
product | 4-[(3,4-Dichlorophenyl)thio]piperidine Monohydrobromide | Br.ClC=1C=C(C=CC1Cl)SC1CCNCC1 | InChI=1S/C11H13Cl2NS.BrH/c12-10-2-1-9(7-11(10)13)15-8-3-5-14-6-4-8;/h1-2,7-8,14H,3-6H2;1H
